US07214806B2
Synthesis of a Cationizing Agent: N,N,N,N′,N′,N′-Hexamethyl-2-(oxiranylmethoxy)-1,3-propanediaminium dichloride [BTA-GE].
Epichlorohydrin (18.5 g, 0.2 mole, Aldrich) and hexane (100 mL) were charged to a round bottom flask fitted with a reflux condenser. An alkaline solution consisting of BTA (24.74 g, 0.1 mole), NaOH (12 g, 0.3 mole) and 44 g of water was prepared and added dropwise to the epichlorohydrin solution over approx. 30 minutes with vigorous stirring. The addition of BTA solution was begun with all components at room temperature, but the strongly exothermic reaction caused the temperature to rise sharply. The rate of addition was controlled such that at no time did the temperature of the reaction mixture exceed 50° C. Vigorous stirring was continued for 1 hour after addition of the alkaline BTA solution was finished. After the reaction mixture had cooled to room temperature, stirring was stopped and the liquid portion was decanted from the sodium chloride precipitate. The water and hexane layers were separated and the hexane layer was discarded. The water layer was evaporated under reduced pressure. The resulting residue was triturated with 100 mL anhydrous MeOH and additional insoluble sodium chloride precipitate was filtered away. Solvent was evaporated under reduced pressure to yield 32 g of a thick, yellowish liquid. By direct titration of epoxy groups (tetrabutylammonium iodide/perchloric acid method), the crude product was determined to be 91.4% pure (96.4% yield). 1H-NMR, 13C-NMR and mass spectrometry were consistent with the assigned structure.

reactant | Epichlorohydrin | 0.2 mole, 18.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | hexane | 100 mL | CCCCCC | C6H14
reactant | NaOH | 0.3 mole, 12 g | [OH-].[Na+]
reactant | tetrabutylammonium iodide perchloric acid | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC.Cl(=O)(=O)(=O)O
solvent | water | 44 g | O | H2O
product | N,N,N,N′,N′,N′-Hexamethyl-2-(oxiranylmethoxy)-1,3-propanediaminium dichloride | 96.4% yield | [Cl-].[Cl-].C[N+](CC(C[N+](C)(C)C)OCC1OC1)(C)C | InChI=1S/C12H28N2O2.2ClH/c1-13(2,3)7-11(8-14(4,5)6)15-9-12-10-16-12;;/h11-12H,7-10H2,1-6H3;2*1H/q+2;;/p-2
